US08754085B2
Step 2: 7-Methoxy-2,3-dip-tolylpyrido[2,3-b]pyrazine
A mixture comprising 7-chloro-2,3-dip-tolylpyrido[2,3-b]pyrazine (836 mg, 2.417 mmol) in dry MeOH (10 ml) and DCM (5 ml) bubbled through with nitrogen was treated portionwise with sodium (278 mg, 12.09 mmol). The resulting mixture was heated at reflux overnight. A further portion of sodium (278 mg, 12.09 mmol) was added and refluxing continued overnight. After cooling to RT, the solvent was removed in vacuo and the resulting residue was added to water. The mixture was extracted with DCM (×3) and the combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification by chromatography on silica eluting with 10-40% EtOAc/iso-hexane afforded the title compound;

reactant | 7-chloro-2,3-dip-tolylpyrido[2,3-b]pyrazine | 2.417 mmol, 836 mg | ClC1=CC=2C(=NC(=C(N2)C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)N=C1 | C21H16ClN3
reactant | sodium | 12.09 mmol, 278 mg | [Na] | Na
reactant | sodium | 12.09 mmol, 278 mg | [Na] | Na
reactant | MeOH | 10 ml | CO | CH4O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 7-Methoxy-2,3-dip-tolylpyrido[2,3-b]pyrazine | COC1=CC=2C(=NC(=C(N2)C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)N=C1 | C22H19N3O
